US07319104B2
2-[4-(2-{(5-Ethylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and vinyltributyltin. 1H NMR (CDCl3) δ 8.02 (d, 1H, J=2.0), 7.32 (dd, 1H, J=8.8; 2.0), 7.12 (d, 2H, J=8.6), 7.07 (d, 2H, J=8.5), 7.0 (d, 2H, J=8.4), 6.82 (d, 2H, J=8.4), 6.42 (d, 1H, J=8.8), 4.50 (s, 2H), 3.67 (t, 2H, J=7.4), 2.80 (t, 2H, J=7.4), 2.49 (q, 2H, J=7.6), 1.55 (s, 6H), 1.19 (t, 3H, J=7.6). MS: m/z 503 (M+1).

reactant | ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | BrC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C27H28BrF3N2O4
reactant | vinyltributyltin | C(=C)[Sn](CCCC)(CCCC)CCCC
product | 2-[4-(2-{(5-Ethylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | C(C)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)O)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C27H29F3N2O4
